US08440666B2
3-Methylpyridine-4-carbaldehyde
3-Chloropyridine-4-carbaldehyde (141.6 mg, 1.00 mmol), trimethylboroxine (278.4 μl 2.00 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) dichloromethane complex (81.6 mg, 0.10 mmol) and potassium carbonate (414.6 mg, 3.00 mmol) were mixed with water (0.2 mL) and 1,4-dioxane (1.8 mL) and stirred at 100° C. for 3 hours. After completion of the reaction, the reaction solution was allowed to cool, and the solvent was removed by vacuum distillation. The resulting crude reaction product containing the desired product was used for the next step (594.7 mg).

reactant | 3-Chloropyridine-4-carbaldehyde | 1.00 mmol, 141.6 mg | ClC=1C=NC=CC1C=O | C6H4ClNO
reactant | trimethylboroxine | 2.00 mmol, 278.4 μl | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 3.00 mmol, 414.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.2 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.10 mmol, 81.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
product | 3-Methylpyridine-4-carbaldehyde | CC=1C=NC=CC1C=O | C7H7NO
